US05556864
Following a procedure similar to that described in the first part of Preparation 3, 1.73 g of 3-(2-naphthyl)propanal prepared as described above, 4.65 g of 2-benzyloxybenzyltriphenylphosphonium chloride (prepared as described in Preparation 1) and 2.15 g of 1,8 -diazabicyclo[5,4,0]undec-7-ene were reacted in 200 ml of acetonitrile. The reaction mixture was worked up and purified as described in the first part of Preparation 3, to obtain 2.83 g (yield 82%) of 4-(2-naphthyl)-1-(2-benzyloxyphenyl)-1-butene as a colorless oil.

reactant | 3-(2-naphthyl)propanal | 1.73 g | C1=C(C=CC2=CC=CC=C12)CCC=O | C13H12O
reactant | 2-benzyloxybenzyltriphenylphosphonium chloride | 4.65 g | [Cl-].C(C1=CC=CC=C1)OC1=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=CC=C1
reactant | 1,8 -diazabicyclo[5,4,0]undec-7-ene | 2.15 g | N12CCCCCC2=NCCC1 | C9H16N2
solvent | acetonitrile | 200 ml | C(C)#N | C2H3N
product | 4-(2-naphthyl)-1-(2-benzyloxyphenyl)-1-butene | 2.83 g, yield 82% | C1=C(C=CC2=CC=CC=C12)CCC=CC1=C(C=CC=C1)OCC1=CC=CC=C1 | C27H24O
